US05153318
a) 2-Amino-6-phenoxy-9H-purine
Potassium t-butoxide (J. T. Baker, 7.3 g, 64.8 mmol) was added to a solution of phenol (Mallinckrodt, 15.2 g, 162 mmol) in 50 mL anhydrous DMSO. After stirring for 30 minutes, 2-amino-6-chloropurine (Sigma, lot #69F4064. 5.5 g, 32.4 mmol) was added and the mixture stirred for 6 days at 100° C. The reaction was poured onto ice and extracted with EtOAc. The solvents were removed in vacuo and the resultant oil applied to a silica gel column. Elution with CHCl3 /MeOH (95:5, v/v) followed by combination and evaporation of appropriate fractions gave 1.6 g (7.0 mmol, 22%) of product. mp=228° C.

reactant | Potassium t-butoxide | 64.8 mmol, 7.3 g | CC(C)([O-])C.[K+]
reactant | phenol | 162 mmol, 15.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-amino-6-chloropurine | 32.4 mmol, 5.5 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2-Amino-6-phenoxy-9H-purine | 7.0 mmol, 1.6 g, 22% | NC1=NC(=C2N=CNC2=N1)OC1=CC=CC=C1 | C11H9N5O
